US07906546B2
To 1.70 g (5.2 mmol) (RS,SR)-benzenesulfonyl-fluoro-(3-oxo-cyclohexyl)-acetic acid methyl ester in glacial acetic acid (20 mL), 1.05 g (5.72 mmol, 1.1 eq) of (4-chloro-phenyl)-hydrazine hydrochloride were added and the reaction mixture was stirred at 40° C. over night. An aqueous solution of NaHCO3 was added until pH=7 was reached, and the mixture was extracted with EtOAc. The combined organic phases were dried over Na2SO4, filtered and evaporated. A column chromatography on silica gel with heptane/EtOAc 2:1 followed by a trituration from Et2O yielded 1.56 g (70%) of (RS,SR)-benzenesulfonyl-(6-chloro-2,3,4,9-tetrahydro-1H-carbazol-2-yl)-fluoro-acetic acid methyl ester as a white solid, MS: 436 (MH+).

reactant | (RS,SR)-benzenesulfonyl-fluoro-(3-oxo-cyclohexyl)-acetic acid methyl ester | 5.2 mmol, 1.70 g | COC(C(C1CC(CCC1)=O)(F)S(=O)(=O)C1=CC=CC=C1)=O | C15H17FO5S
reactant | (4-chloro-phenyl)-hydrazine hydrochloride | 5.72 mmol, 1.05 g, 1.1 eq | Cl.ClC1=CC=C(C=C1)NN
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | acetic acid | 20 mL | C(C)(=O)O | C2H4O2
product | (RS,SR)-benzenesulfonyl-(6-chloro-2,3,4,9-tetrahydro-1H-carbazol-2-yl)-fluoro-acetic acid methyl ester | 1.56 g, 70% | COC(C(F)(C1CC=2NC3=CC=C(C=C3C2CC1)Cl)S(=O)(=O)C1=CC=CC=C1)=O | C21H19ClFNO4S
